US08623340B2
395 g of 5-Phenyl-2-n-propyl-penta-2,4-dienal from Synthesis Example 1.1 were combined with 14 g of Raney-Ni and hydrogenated at a hydrogen pressure of 20 bar and at a temperature of 120° C. After 20 hours the reaction was finished. The catalyst was removed and the product distilled. 365 g (content 96%) of 5-phenyl-2-n-propyl-pentanol are obtained. Yield: 93.6% of theoretical.

reactant | 5-Phenyl-2-n-propyl-penta-2,4-dienal | 395 g | C1(=CC=CC=C1)C=CC=C(C=O)CCC | C14H16O
reactant | hydrogen | [H][H] | H2
catalyst | Ni | [Ni] | Ni
product | 5-phenyl-2-n-propyl-pentanol | 365 g, 96% | C1(=CC=CC=C1)CCCC(CO)CCC | C14H22O
